US07981882B2
7-Chloro-6-(3-hydroxyazetidin-1-yl)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine
Under nitrogen mix 7-chloro-6-[3-(tert-butyldimethyl-silanyloxy)-azetidin-1-yl]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (594 mg, 1.29 mmol), 1 N tetrabutylammonium fluoride solution in THF (2.04 mL, 2.04 mmol), glacial acetic acid (0.2 mL, 3.33 mmol), 4 Å molecular sieve (650 mg) in anhydrous THF (18 mL). Stir at RT for 3 days. After the first day add more 1 N tetrabutylammonium fluoride solution in THF (2.04 mL, 2.04 mmol) and glacial acetic acid (0.2 mL, 3.33 mmol). After the second day add more 1 N tetrabutylammonium fluoride solution in THF (2.04 mL, 2.04 mmol) and glacial acetic acid (0.2 mL, 3.33 mmol). Stop the reaction on the third day. Dilute with EtOAc and wash with saturated aqueous sodium bicarbonate solution and 0.1 N NaOH. Extract the aqueous layer three times with EtOAc. Combine the EtOAc fractions, dry (sodium sulfate), concentrate and purify (silica gel chromatography, eluting with 10:90 to 30:70 EtOAc:hexanes) to give the title compound (325 mg, 72%).

reactant | 7-chloro-6-[3-(tert-butyldimethyl-silanyloxy)-azetidin-1-yl]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.29 mmol, 594 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)N1CC(C1)O[Si](C)(C)C(C)(C)C | C21H30ClF3N2O2Si
reactant | tetrabutylammonium fluoride | 1 N | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | acetic acid | 3.33 mmol, 0.2 mL | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | 1 N | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | acetic acid | 3.33 mmol, 0.2 mL | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | 1 N | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | acetic acid | 3.33 mmol, 0.2 mL | C(C)(=O)O | C2H4O2
solvent | THF | 18 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 2.04 mmol, 2.04 mL | C1CCOC1 | C4H8O
solvent | THF | 2.04 mmol, 2.04 mL | C1CCOC1 | C4H8O
solvent | THF | 2.04 mmol, 2.04 mL | C1CCOC1 | C4H8O
product | 7-Chloro-6-(3-hydroxyazetidin-1-yl)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 325 mg, 72% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)N1CC(C1)O | C15H16ClF3N2O2
